US04378250
Into a sealable, glass container were charged 50 g of γ-aminopropyl-triethoxysilane (0.226 mole) and 50 g (0.694 mole) methyl ethyl ketone. The mixture was allowed to stand one hour to permit the ketimine to form. Then 106.8 g (0.4525 mole) of γ-glicidoxypropyl-trimethoxysilane, 117.2 g of methyl ethyl ketone (1.63 mole) and 12.4 g (0.678 mole) distilled water were added to the ketimine mixture (representing a molar ratio of water per siloxane group of 0.68). The non-volatile solids content was 45 wt. % of the total coating composition, which was composed of the first component, or ketimine, and the second component (formed via partial hydrolysis of the γ-glycidoxypropyl-trimethoxysilane). The coating composition was allowed to age for about one hour, and then a sample was drawn down onto a degreased panel of polyallyl diglycol carbonate with a #22 wire wound coating rod. The coating was cured by baking at 15 hours at 80° C. The adhesion, as tested by ASTM D3359, was 100%. The scratch resistance on a Gardner Labs Scratch and Adhesion Tester was 148 g. The surface, when rubbed 100 times at 40 psi with 000 steel wool exhibited 1 or 2 scratches, but no scratches after 100 rubs at 30 psi. The usable pot life was 16-18 hours.

reactant | γ-aminopropyl-triethoxysilane | 0.226 mole, 50 g | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
reactant | methyl ethyl ketone | 0.694 mole, 50 g | C(C)C(=O)C | C4H8O
reactant | methyl ethyl ketone | 1.63 mole, 117.2 g | C(C)C(=O)C | C4H8O
reactant | water | O | H2O
product | γ-glycidoxypropyl-trimethoxysilane | C(C1CO1)OCCC[Si](OC)(OC)OC | C9H20O5Si
